US08937091B2
2-(N-hydroxyethylmethyl)aminoethyl-2-pyrazylketone 8593
2-acetylpyrazine (122 mg), methylhydroxyethyl amine (75 mg), and paraformaldehyde (40 mg) were reacted at 130° C. for 2 hours.

reactant | 2-acetylpyrazine | 122 mg | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
reactant | methylhydroxyethyl amine | 75 mg | CNCCO | C3H9NO
reactant | paraformaldehyde | 40 mg | C=O | CH2O
product | 2-(N-hydroxyethylmethyl)aminoethyl-2-pyrazylketone | C1=CN=C(C=N1)C(=O)CCNCCCO | C10H15N3O2
